US03943141
a. 7-Ethoxy-1,4-dihydro-1(2-hydroxyethyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid
7-Ethoxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester (3.6 g), 2-bromoethanol and potassium carbonate (7.5 g) in dimethylformamide (50 ml) (4.95 ml)/were stirred and heated on a steam bath for 16 hours. The solid was filtered off and the filtrate evaporated. The residue was crystallized from dimethylformamide. This ester (2.0 g) and aqueous sodium hydroxide (40 ml, 2N) were heated on a steam bath for 3 hours, cooled and acidified to pH 2 with aqueous hydrochloric acid. The solid was collected and crystallised from ethanol, m.p. 219.5°-220° (24 %).

reactant | 7-Ethoxy-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid, ethyl ester | 3.6 g | C(C)OC1=CC=C2C(C(=CNC2=N1)C(=O)OCC)=O | C13H14N2O4
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | potassium carbonate | 7.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 7-Ethoxy-1,4-dihydro-1(2-hydroxyethyl)-4-oxo-1,8-naphthyridine-3-carboxylic acid | C(C)OC1=CC=C2C(C(=CN(C2=N1)CCO)C(=O)O)=O | C13H14N2O5
